US07589095B2
Sodium cyanide (0.63 g, 12.9 mmol) was added at room temperature to 2-methanesulfonyl-4-propyl-6-trimethylstannanyl-pyrimidine (2.34 g, 6.5 mmol) in DMSO (23 mL). The mixture was stirred at room temperature for 2 hours, then partitioned between ethyl acetate and water. The aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulphate, filtered and concentrated under reduced pressure. The residue was chromatographed over silica gel (eluent: Cyclohexane/Ethyl acetate 9/1) to give 4-propyl-6-trimethylstannanyl-pyrimidine-2-carbonitrile (1.53 g, 76%) as an off white solid (mp=62° C.).

reactant | Sodium cyanide | 12.9 mmol, 0.63 g | [C-]#N.[Na+]
reactant | 2-methanesulfonyl-4-propyl-6-trimethylstannanyl-pyrimidine | 6.5 mmol, 2.34 g | CS(=O)(=O)C1=NC(=CC(=N1)CCC)[Sn](C)(C)C
solvent | DMSO | 23 mL | CS(=O)C | C2H6OS
product | 4-propyl-6-trimethylstannanyl-pyrimidine-2-carbonitrile | 1.53 g, 76% | C(CC)C1=NC(=NC(=C1)[Sn](C)(C)C)C#N | InChI=1S/C8H8N3.3CH3.Sn/c1-2-3-7-4-5-10-8(6-9)11-7;;;;/h4H,2-3H2,1H3;3*1H3;
